US07504517B2
Preparation of 1-[[2-(9H-fluoren-9-ylmethoxy)-2-oxoethyl]sulfonylamino]-3-[2-(4-methoxyphenyl)ethyl]-4-(4-cyclopropylphenyl)-2-imidazolidinone.
To a solution of 1-amino-3-[2-(4-methoxyphenyl)ethyl]-4-(4-cyclopropylphenyl)-2-imidazolidinone p-toluenesulfonic acid salt (2.61 g, 0.0050 mol), dichloromethane (12 mL), and N-methylmorpholine (1.53 mL, 0.014 mol) is added a solution of 9H-fluoren-9-ylmethyl chlorosulfonylacetate, 14, (1.76 g, 0.0052 mol) in dichloromethane (7 mL) slowly over 7 minutes at 15° C. to 20° C. The reaction is stirred at ambient temperature for 45 minutes, and then washed twice with 0.1 N HCl and water. The organic phase is dried (sodium sulfate) and concentrated to a foamy solid. The residue is purified over silica (0%-50% ethyl acetate/hexanes gradient) to afford 2.1 g of the desired compound. 1H NMR (CDCl3) δ 7.81 (d, J=7.5 Hz, 2H), 7.69 (d, J=7.5 Hz, 2H), 7.45 (m, 2H), 7.36 (m, 2H), 7.27 (s, 1H), 7.17 (m, 2H), 7.10 (m, 2H), 7.02 (m, 2H), 6.82 (m, 2H), 4.63 (m, 2H), 4.45 (t, J=8.4 Hz, 1H), 4.35 (m, 3H), 3.94 (t, J=8.4 Hz, 1H), 3.78 (s, 3H), 3.65 (m, 1H), 3.38 (t, J=8.1 Hz, 1H), 2.92 (m, 1H), 2.74 (m, 1H), 2.64 (m, 1H), 1.94 (m, 1H), 1.03 (m, 2H), 0.74 (m, 2H). MS 652 (MH+). Anal. calcd. for C37H37N3O6S¾H2O: C, 66.80; H, 5.83; N, 6.32. Found: C, 66.78; H, 5.72; N, 6.30.

reactant | 1-amino-3-[2-(4-methoxyphenyl)ethyl]-4-(4-cyclopropylphenyl)-2-imidazolidinone p-toluenesulfonic acid salt | 0.0050 mol, 2.61 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NN1C(N(C(C1)C1=CC=C(C=C1)C1CC1)CCC1=CC=C(C=C1)OC)=O
reactant | N-methylmorpholine | 0.014 mol, 1.53 mL | CN1CCOCC1 | C5H11NO
reactant | 9H-fluoren-9-ylmethyl chlorosulfonylacetate | ClS(=O)(=O)CC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C16H13ClO4S
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 1-[[2-(9H-fluoren-9-ylmethoxy)-2-oxoethyl]sulfonylamino]-3-[2-(4-methoxyphenyl)ethyl]-4-(4-cyclopropylphenyl)-2-imidazolidinone | 2.1 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(CS(=O)(=O)NN1C(N(C(C1)C1=CC=C(C=C1)C1CC1)CCC1=CC=C(C=C1)OC)=O)=O | C37H37N3O6S
